US04614833
4-benzoyl-2-chloropyridine
A mixture of 2.5 g 4-benzoylpyridine N-oxide m.p. 127°-30° C. (obtained according to T. KATO et. al., Yakugaku Zasshi 86, 1022-26, 1966), and 6 ml phosphorus oxychloride is refluxed for 2 hrs. After cooling, the reaction mixture is very slowly added to ice: water, basified (10N NaOH) and extracted with methylene chloride. The organic layer is washed with water, dried and solvent removed in a rotary evaporator. Yield: 2.4 g of title product, identical with that described in Ex. 4.

reactant | 4-benzoylpyridine N-oxide | 2.5 g | C(C1=CC=CC=C1)(=O)C1=CC=[N+](C=C1)[O-] | C12H9NO2
reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 10N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-benzoyl-2-chloropyridine | C(C1=CC=CC=C1)(=O)C1=CC(=NC=C1)Cl | C12H8ClNO
